US04117128
3-[4-(2-Diethylaminoethoxy)phenylsulfonyl]-2-(4-tolyl)benzofuran
Reaction of 3-(4-hydroxyphenylsulfonyl)-2-(4-tolyl)benzofuran with 2-diethylaminoethyl chloride according to the procedure of Example 1 gives the title compound.

reactant | 3-(4-hydroxyphenylsulfonyl)-2-(4-tolyl)benzofuran | OC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)C | C21H16O4S
reactant | 2-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
product | 3-[4-(2-Diethylaminoethoxy)phenylsulfonyl]-2-(4-tolyl)benzofuran | C(C)N(CCOC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)C)CC | C27H29NO4S
